US05753679
0.31 g (0.0015 mol) of 1-(4-methyl-benzyl)-piperidin-4-ol and 0.52 ml (0.00375 mol) of triethylamine were dissolved in 15 ml of toluene, treated with 0.25 ml (0.001875 mol) of p-toluoyl chloride and boiled at reflux for 18 hrs. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:4). 0.4 g (83%) of 1-(4-methyl-benzyl)-piperidin-4-yl 4-methyl-benzoate was obtained as yellow crystals; m.p. 66°-77°.

reactant | 1-(4-methyl-benzyl)-piperidin-4-ol | 0.0015 mol, 0.31 g | CC1=CC=C(CN2CCC(CC2)O)C=C1 | C13H19NO
reactant | triethylamine | 0.00375 mol, 0.52 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluoyl chloride | 0.001875 mol, 0.25 ml | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-methyl-benzyl)-piperidin-4-yl 4-methyl-benzoate | 0.4 g, 83% | CC1=CC=C(C(=O)OC2CCN(CC2)CC2=CC=C(C=C2)C)C=C1 | C21H25NO2
